US04933339
2-Cyano-2-(2,4-dichlorophenyl)-1-(3-pyridyl) hexane
Examples 1, 4-5, 13, 14, 19-22, 24 and 25 were prepared in a similar manner and instead of 2-(2,4-dichlorophenyl)hexane nitrile using: 2-phenylhexane nitrile, 2,3-diphenylpropionitrile, 2-(3-fluorophenyl)-4-phenylbutyro nitrile, 2-(4-chlorophenyl)-2-hexen-5-yl nitrile, 2-(4-chlorophenyl)-7-octenyl nitrile, 2-(4-chlorophenyl)4-chloro-4-pentene nitrile and 2-(2-chlorophenyl)-4-(4chlorophenyl)butyro nitrile.

reactant | 2-(2,4-dichlorophenyl)hexane nitrile | ClC1=C(C=CC(=C1)Cl)C(C#N)CCCC | C12H13Cl2N
reactant | 2-phenylhexane nitrile | C1(=CC=CC=C1)C(C#N)CCCC | C12H15N
reactant | 2,3-diphenylpropionitrile | C1(=CC=CC=C1)C(C#N)CC1=CC=CC=C1 | C15H13N
reactant | 2-(3-fluorophenyl)-4-phenylbutyro nitrile | FC=1C=C(C=CC1)C(C#N)CCC1=CC=CC=C1 | C16H14FN
reactant | 2-(4-chlorophenyl)4-chloro-4-pentene nitrile | ClC1=CC=C(C=C1)C(C#N)CC(=C)Cl | C11H9Cl2N
reactant | 2-(2-chlorophenyl)-4-(4chlorophenyl)butyro nitrile | ClC1=C(C=CC=C1)C(C#N)CCC1=CC=C(C=C1)Cl | C16H13Cl2N
product | 2-Cyano-2-(2,4-dichlorophenyl)-1-(3-pyridyl) hexane | C(#N)C(CC=1C=NC=CC1)(CCCC)C1=C(C=C(C=C1)Cl)Cl | C18H18Cl2N2
